US06593322B1
A. Ethyl (2E)-3-(4-{[2-(4-Fluorophenyl)-6-(phenylmethoxy)(1,2,3,4-tetrahydroisoquinolyl)]methyl}phenyl)prop-2-enoate
The title compound was prepared as described in Example 135, using 1-(4-bromobenzyl)-2-(4-fluorophenyl)-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline (1.22 g, 2.43 mmol) and ethyl acrylate (0.50 g, 5.0 mmol) to provide the title compound (1.146 g, 90% yield): 1H NMR (CDCl3) 7.65 (d, 1H), 7.33-7.44 (m, 7H), 7.02 (d, 2H), 6.92 (m, 2H), 6.69-6.78 (m, 5H), 6.39 (d, 1H), 5.03 (s, 2H), 4.76 (t, 1H), 4.26 (q, 2H), 3.35 (m, 1H), 3.48 (m, 1H), 3.18 (dd, 1H), 2.95 (m, 2H), 2.67 (dt, 1H), 1.31 (t, 3H); ES-MS m/z 522 [M+H]+.

reactant | 1-(4-bromobenzyl)-2-(4-fluorophenyl)-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline | 2.43 mmol, 1.22 g | BrC1=CC=C(CC2N(CCC3=CC(=CC=C23)OCC2=CC=CC=C2)C2=CC=C(C=C2)F)C=C1 | C29H25BrFNO
reactant | ethyl acrylate | 5.0 mmol, 0.50 g | C(C=C)(=O)OCC | C5H8O2
product | Ethyl (2E)-3-(4-{[2-(4-Fluorophenyl)-6-(phenylmethoxy)(1,2,3,4-tetrahydroisoquinolyl)]methyl}phenyl)prop-2-enoate | 1.146 g, 90% yield | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2CC1)OCC1=CC=CC=C1)CC1=CC=C(C=C1)/C=C/C(=O)OCC | C34H32FNO3
